data/polar.json
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:3](=[O+:18][CH3:17])[c:21]1[cH:12][cH:10][cH:8][cH:11][cH:13]1.[S:1]1(=[O:19])(=[O:20])[c:9]2[c:4]([cH:7][cH:2][cH:14][cH:6]2)[C:16]([O-:5])=[N:15]1>>[S:1]1(=[O:19])(=[O:20])[c:9]2[c:4]([cH:7][cH:2][cH:14][cH:6]2)[C:16](=[O:5])[N:15]1[CH:3]([O:18][CH3:17])[c:21]1[cH:12][cH:10][cH:8][cH:11][cH:13]1", "epd": [["LP-/Pi+", [5], [16, 5]], ["Pi-/Sigma+", [15, 16], [15, 3]], ["Pi-/LP+", [3, 18], [18]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH3:10][CH2:31][c:32]1[c:15]([CH3:33])[cH:20][nH:28][c:27]1[CH3:14].[O:1]=[S:12](=[O:2])([N:11]([S:9][C:5]([F:6])([F:7])[F:8])[S:13](=[O:3])(=[O:4])[c:30]1[cH:18][cH:25][cH:22][cH:26][cH:19]1)[c:29]1[cH:16][cH:23][cH:21][cH:24][cH:17]1>>[C:5]([F:6])([F:7])([F:8])[S:9][CH:20]1[C:15]([CH3:33])=[C:32]([CH2:31][CH3:10])[C:27]([CH3:14])=[NH+:28]1.[O:1]=[S:12](=[O:2])([N-:11][S:13](=[O:3])(=[O:4])[c:30]1[cH:18][cH:25][cH:22][cH:26][cH:19]1)[c:29]1[cH:16][cH:23][cH:21][cH:24][cH:17]1", "epd": [["LP-/Pi+", [28], [27, 28]], ["Pi-/Pi+", [32, 27], [15, 32]], ["Pi-/Sigma+", [20, 15], [20, 9]], ["Sigma-/LP+", [9, 11], [11]]]}
{"reaction_name": "Cyanide alkylation", "rsmi": "[C-:2]#[N:3].[CH3:1][Br:4]>>[Br-:4].[CH3:1][C:2]#[N:3]", "epd": [["LP-/Sigma+", [2], [1, 2]], ["Sigma-/LP+", [1, 4], [4]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[cH:17][cH:24][c:15]([B-:2]2([CH2:19][CH:14]=[CH2:31])[O:32][C:29]([CH3:3])([CH3:4])[C:30]([CH3:5])([CH3:6])[O:33]2)[cH:25][cH:18]1.[cH:7]1[cH:13][cH:8][c:9]2[c:16]([o+:10][c:12](-[c:27]3[cH:22][cH:20][cH:28][cH:21][cH:23]3)[cH:11][cH:26]2)[cH:34]1>>[cH:1]1[cH:17][cH:24][c:15]([B-:2]2([CH2:19][CH+:14][CH2:31][CH:26]3[c:9]4[cH:8][cH:13][cH:7][cH:34][c:16]4[O:10][C:12]([c:27]4[cH:22][cH:20][cH:28][cH:21][cH:23]4)=[CH:11]3)[O:32][C:29]([CH3:3])([CH3:4])[C:30]([CH3:5])([CH3:6])[O:33]2)[cH:25][cH:18]1", "epd": [["Pi-/Sigma+", [31, 14], [31, 26]], ["Pi-/Pi+", [26, 11], [11, 12]], ["Pi-/LP+", [12, 10], [10]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[CH:1]([C:8](=[O:9])[c:12]1[cH:4][cH:18][c:10]([N:17]([CH3:13])[CH3:14])[cH:19][cH:5]1)=[S:20]([CH3:6])[CH3:7].[cH:2]1[cH:3][cH:16][cH:22][cH+:11][cH:21][cH:15]1>>[CH:1]([C:8](=[O:9])[c:12]1[cH:4][cH:18][c:10]([N:17]([CH3:13])[CH3:14])[cH:19][cH:5]1)([CH:11]1[CH:21]=[CH:15][CH:2]=[CH:3][CH:16]=[CH:22]1)[S+:20]([CH3:6])[CH3:7]", "epd": [["Pi-/Sigma+", [1, 20], [1, 11]]]}
{"reaction_name": "Nucleophilic addition to terminal diazo nitrogen", "rsmi": "[CH:1]1=[CH:5][c:6]2[cH:12][cH:11][cH:20][cH:10][c:17]2[CH:21]1[Na:18].[N+:2]([C-:9]([C:3]([O:13][CH3:7])=[O:15])[C:4]([O:14][CH3:8])=[O:16])#[N:19]>>[CH:1]1=[CH:5][c:6]2[cH:12][cH:11][cH:20][cH:10][c:17]2[CH:21]1[N:19]=[N:2][C-:9]([C:3]([O:13][CH3:7])=[O:15])[C:4]([O:14][CH3:8])=[O:16].[Na+:18]", "epd": [["Sigma-/Sigma+", [21, 18], [21, 19]], ["Pi-/LP+", [19, 2], [2]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[CH:1]1([C:4](=[O:16])[O:30][CH3:10])[CH2:11][CH2:23][CH2:17][N:27]1[C:18]1=[CH:13][CH2:3][CH2:24][CH2:14][CH2:5]1.[n+:2]1([CH3:15])[c:6]2[cH:19][cH:25][cH:21][cH:8][c:28]2[cH:12][c:29]2[c:7]1[cH:20][cH:26][cH:22][cH:9]2>>[CH:1]1([C:4](=[O:16])[O:30][CH3:10])[CH2:11][CH2:23][CH2:17][N+:27]1=[C:18]1[CH2:5][CH2:14][CH2:24][CH2:3][CH:13]1[CH:12]1[c:28]2[c:6]([cH:19][cH:25][cH:21][cH:8]2)[N:2]([CH3:15])[c:7]2[cH:20][cH:26][cH:22][cH:9][c:29]21", "epd": [["LP-/Pi+", [27], [18, 27]], ["Pi-/Sigma+", [13, 18], [13, 12]], ["Pi-/Pi+", [12, 28], [28, 6]], ["Pi-/LP+", [6, 2], [2]]]}
{"reaction_name": "Biginelli reaction", "rsmi": "[CH3:6][C:9]([H:10])=[O:17].[H+:4].[O:1]=[C:2]([N:14]([H:20])[H:21])[N:15]([H:22])[H:23].[O:3]=[C:5]([C:12]([H:7])([H:8])[C:18](=[O:13])[CH3:16])[O:19][CH3:11]>>[H+:21].[H:4][O:13][H:7].[H:8][O:17][H:23].[O:1]=[C:2]1[N:14]([H:20])[C:18]([CH3:16])=[C:12]([C:5](=[O:3])[O:19][CH3:11])[C:9]([CH3:6])([H:10])[N:15]1[H:22]", "epd": [["LP-/Sigma+", [15], [9, 15]], ["Sigma-/LP+", [9, 17], [17]], ["LP-/Sigma+", [17], [17, 23]], ["Sigma-/LP+", [15, 23], [15]], ["LP-/Sigma+", [14], [14, 18]], ["Sigma-/LP+", [13, 18], [13]], ["LP-/Sigma+", [13], [4, 13]], ["Pi-/LP+", [13, 18], [13]], ["LP-/Sigma+", [13], [7, 13]], ["Sigma-/LP+", [7, 12], [12]], ["Pi-/Sigma+", [9, 17], [9, 12]], ["Sigma-/Sigma+", [8, 12], [8, 17]], ["LP-/Pi+", [12], [12, 18]], ["Sigma-/LP+", [14, 21], [14]]]}
